US06476026B1
A mixture comprised of 2,5-dioxopyrrolidin-1-yl 2-benzyloxycarbonylamino-4-methylvalerate (39.6 g, 0.109 mol), aminoacetonitrile hydrochloride (10.1 g, 0.109 mol), triethylamine (61 mL, 0.436 mol), DMF (40 mL) and acetonitrile (360 mL) was stirred at room temperature for 27 hours. The mixture was filtered, concentrated to a volume of 100 mL and poured into ice water (1000 mL). The mixture was stirred until a precipitate had formed. The precipitate was collected, washed with water and dried. The dry product was recrystallized from 55% ethanol/water (80 mL). The crystals were collected and recrystallized from 65% ethanol/water (70 mL). The crystals were collected and dried to provide benzyl (S)-1-cyanomethylcarbamoyl-3-methylbutylcarbamate (21.1 g, 0.067 mol) as white needles, m.p. 120-121° C. Proton NMR (300 MHz, DMSO-d6): δ 8.68 (t, J=6 Hz, 1H), δ 7.54 (d, J=8 Hz, 1H), δ 7.33 (m, 5H), δ 5.00 (Abq, 2H), δ 4.09 (d, J=6 Hz, 2H, δ 4.03 (m, 1H), δ 1.24-1.64 (m, 3H), δ 0.84 (apparent t, J=7 Hz, 6H). MS (electrospray): mH+ 303.9 (100%). Calcd. for C16H21N3O3: C, 63.35; H, 6.98; N, 13.85. Found: C, 63.55; H, 7.01; N, 13.74.

reactant | 2,5-dioxopyrrolidin-1-yl 2-benzyloxycarbonylamino-4-methylvalerate | 0.109 mol, 39.6 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)ON1C(CCC1=O)=O)CC(C)C | C18H22N2O6
reactant | aminoacetonitrile hydrochloride | 0.109 mol, 10.1 g | Cl.NCC#N
reactant | triethylamine | 0.436 mol, 61 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | acetonitrile | 360 mL | C(C)#N | C2H3N
product | benzyl (S)-1-cyanomethylcarbamoyl-3-methylbutylcarbamate | 0.067 mol, 21.1 g | C(#N)CNC(=O)[C@H](CC(C)C)NC(OCC1=CC=CC=C1)=O | C16H21N3O3
